US04080193
18.7 g (0.06 mole) of 3-chloro-4-(3-trifluoromethylphenoxy)-aniline were dissolved in 100 ml of acetonitrile, and 3 drops of triethylamine and 4.3 g (0.078 mole) of methylisocyanate were added at 10° C. The mixture was stirred for a further 4 hours at room temperature and then poured into water, and when the reaction mixture had crystallized throughout the solid was filtered off and recrystallized from toluene. 6 g (29% of theory) of N-methyl-N'-[3-chloro-4-(3-trifluoromethylphenoxy)-phenyl]-urea of melting point 160° C were obtained.

reactant | 3-chloro-4-(3-trifluoromethylphenoxy)-aniline | 0.06 mole, 18.7 g | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | methylisocyanate | 0.078 mole, 4.3 g | CN=C=O | C2H3NO
reactant | water | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | N-methyl-N'-[3-chloro-4-(3-trifluoromethylphenoxy)-phenyl]-urea | 6 g, 29% | CNC(=O)NC1=CC(=C(C=C1)OC1=CC(=CC=C1)C(F)(F)F)Cl | C15H12ClF3N2O2
